US07504508B2
(2S,4R)-N-(4-Chloro-phenyl)-N-(2-methyl-1-{4-[3-(2-oxo-pyrrolidin-1-yl)-propoxy]-benzoyl}-1,2,3,4-tetrahydro-quinolin-4-yl)-acetamide (H-132)
N-(3-hydroxypropyl)-2-pyrrolidone was dissolved in benzene at room temperature with PPh3 (0.044 g, 0.16 mmol) added (2S,4R)-N-(4-chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide (0.100 g, 0.22 mmol) and stirred for 5 min. DEAD (0.029 g, 0.16 mmol) was added and the reaction was stirred for 18 h at room temperature. The reaction was concentrated and purified by silica gel chromatography (4% MeOH/96% CH2Cl2 to 5% MeOH/95% CH2Cl2 to 6% MeOH/94% CH2Cl2) to afford the product in 45% yield.

reactant | N-(3-hydroxypropyl)-2-pyrrolidone | OCCCN1C(CCC1)=O | C7H13NO2
reactant | PPh3 | 0.16 mmol, 0.044 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | (2S,4R)-N-(4-chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | 0.22 mmol, 0.100 g | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)O)=O)C | C25H23ClN2O3
reactant | DEAD | 0.16 mmol, 0.029 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (2S,4R)-N-(4-Chloro-phenyl)-N-(2-methyl-1-{4-[3-(2-oxo-pyrrolidin-1-yl)-propoxy]-benzoyl}-1,2,3,4-tetrahydro-quinolin-4-yl)-acetamide | 45% yield | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OCCCN1C(CCC1)=O)=O)C | C32H34ClN3O4
